US05952331
To a solution of 2-amino-4-(4-fluoronaphth-1-yl)-6-isopropylpyrimidine (free base, 0.100 g) in carbon tetrachloride (10 mL) was added iron powder (0.002 g) and bromine (0.074 g) at room temperature. The reaction mixture was stirred at room temperature for 1 hour, after which time it was poured into sodium bicarbonate solution (saturated, 30 mL). The layers were separated and the aqueous layer was extracted three times with methylene chloride (3×10 mL). The combined organic layers were evaporated to dryness. The residue was purified by preparative thin layer chromatography, eluting with hexane/ethyl acetate, and recrystallized from ether/hexane to give 2-amino-5-bromo-4-(4-fluoronaphth-1-yl)-6-isopropylpyrimidine (0.072 g), m.p. 176-180° C.

reactant | 2-amino-4-(4-fluoronaphth-1-yl)-6-isopropylpyrimidine | 0.100 g | NC1=NC(=CC(=N1)C1=CC=C(C2=CC=CC=C12)F)C(C)C | C17H16FN3
reactant | bromine | 0.074 g | BrBr | Br2
reactant | sodium bicarbonate | 30 mL | C([O-])(O)=O.[Na+]
solvent | carbon tetrachloride | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | iron | 0.002 g | [Fe] | Fe
product | 2-amino-5-bromo-4-(4-fluoronaphth-1-yl)-6-isopropylpyrimidine | 0.072 g | NC1=NC(=C(C(=N1)C1=CC=C(C2=CC=CC=C12)F)Br)C(C)C | C17H15BrFN3
